US07863271B2
To a solution of methyl 2-amino-3-methoxybenzoate (13.0 g, 71.8 mmol) in DMF (30 mL) was added NBS (14.38 g, 80.8 mmol) at room temperature and the resulting reaction mixture was stirred for 17 h. The reaction mixture was filtered through Celite, and the filtrate was concentrated under reduced pressure. The resulting residue was purified by column chromatography (silica gel, 2% to 5% EtOAc in hexanes) to afford methyl 2-amino-5-bromo-3-methoxybenzoate (13.7 g, 73%). 1H NMR consistent.

reactant | methyl 2-amino-3-methoxybenzoate | 71.8 mmol, 13.0 g | NC1=C(C(=O)OC)C=CC=C1OC | C9H11NO3
reactant | NBS | 80.8 mmol, 14.38 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | methyl 2-amino-5-bromo-3-methoxybenzoate | 13.7 g, 73% | NC1=C(C(=O)OC)C=C(C=C1OC)Br | C9H10BrNO3
